US08293735B2
A solution of N-(3-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide (2.1 g, 7.4 mmol) and benzoyl peroxide (100 mg) in carbon tetrachloride (50 mL) was heated to reflux under irradiation (150 W tungsten lamp). A solution of bromine (0.55 mL, 10.4 mmol) in carbon tetrachloride (3 mL) was then added drop-wise to the refluxing solution, and heating was pursued for 16 h. The reaction mixture was left to cool to RT and diluted with DCM. The organic layer was washed with sodium thiosulfate, and evaporated to dryness to give N-(3-bromo-2-bromomethyl-phenyl)-2,2,2-trifluoro-acetamide as a brown residue which was used without further purification (2.9 g).

reactant | N-(3-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide | 7.4 mmol, 2.1 g | BrC=1C(=C(C=CC1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
reactant | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | bromine | 10.4 mmol, 0.55 mL | BrBr | Br2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tungsten | [W] | W
product | N-(3-bromo-2-bromomethyl-phenyl)-2,2,2-trifluoro-acetamide | BrC=1C(=C(C=CC1)NC(C(F)(F)F)=O)CBr | C9H6Br2F3NO
